*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : HA4031
* Inductance = 150nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt HA4031_freq port1 port2 PARAMS: Cpar=0.277pF Ind=150nH
X1 port1 port2 Model2A PARAMS:
+ R1=18
+ R2=0.11
+ C= {Cpar}
+ K1=0.000072
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends HA4031_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : HA4032
* Inductance = 180nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt HA4032_freq port1 port2 PARAMS: Cpar=0.291pF Ind=180nH
X1 port1 port2 Model2A PARAMS:
+ R1=20
+ R2=0.11
+ C= {Cpar}
+ K1=0.000084
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends HA4032_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : HA4033
* Inductance = 220nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-800MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt HA4033_freq port1 port2 PARAMS: Cpar=0.296pF Ind=220nH
X1 port1 port2 Model2A PARAMS:
+ R1=21
+ R2=0.105
+ C= {Cpar}
+ K1=0.000106
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends HA4033_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : HA4034
* Inductance = 270nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-800MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt HA4034_freq port1 port2 PARAMS: Cpar=0.233pF Ind=270nH
X1 port1 port2 Model2A PARAMS:
+ R1=25
+ R2=0.1
+ C= {Cpar}
+ K1=0.000125
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends HA4034_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : HA4035
* Inductance = 330nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-800MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt HA4035_freq port1 port2 PARAMS: Cpar=0.255pF Ind=330nH
X1 port1 port2 Model2A PARAMS:
+ R1=24
+ R2=0.1
+ C= {Cpar}
+ K1=0.000166
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends HA4035_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : HA4036
* Inductance = 390nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-800MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt HA4036_freq port1 port2 PARAMS: Cpar=0.234pF Ind=390nH
X1 port1 port2 Model2A PARAMS:
+ R1=28
+ R2=0.105
+ C= {Cpar}
+ K1=0.000198
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends HA4036_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft RF Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model2A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
.ends Model2A








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
